US05082954
Reducing 3-(1-azidotridecyl)-2-triethylsilylfuran with lithium aluminum hydride, as in Example 8, followed by reacting the intermediate with methanesulfonyl chloride, gives 3-(1-methanesulfonamidotridecyl)-2-triethylsilylfuran. Oxidizing this sulfonamide followed by reduction with sodium borohydride gives 3-(1-methanesulfonamidotridecyl)-2(5H)-furanone.

reactant | 3-(1-azidotridecyl)-2-triethylsilylfuran | N(=[N+]=[N-])C(CCCCCCCCCCCC)C1=C(OC=C1)[Si](CC)(CC)CC | C23H43N3OSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-(1-methanesulfonamidotridecyl)-2-triethylsilylfuran | CS(=O)(=O)NC(CCCCCCCCCCCC)C1=C(OC=C1)[Si](CC)(CC)CC | C24H47NO3SSi
